US07179820B2
2-{4-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetamide
Triethylamine (9.4 μL, 0.067 mmol) and ethyl chloroformate (3.1 μL, 0.032 mmol) were added sequentially to a solution of {4-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetic acid (11.8 mg, 0.032 mmol) in CH2Cl2 (0.2 mL) at 0° C. After 1 h at 0° C., ammonia (0.5 M in 1,4-dioxane, 0.32 mL, 0.16 mmol) was added and the reaction mixture was allowed to warm to rt. After 17 h at rt, the reaction mixture was treated with saturated aqueous NaHCO3 (10 mL) and extracted with CH2Cl2 (3×10 mL). The combined extracts were dried (Na2SO4), filtered and concentrated in vacuo to afford 11 mg (93%) of the title compound.

reactant | Triethylamine | 0.067 mmol, 9.4 μL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.032 mmol, 3.1 μL | ClC(=O)OCC | C3H5ClO2
reactant | {4-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetic acid | 0.032 mmol, 11.8 mg | OC(/C=C/[C@@H]1N(C(CCC1)=O)CC#CCOCC(=O)O)CC1=CC=CC=C1 | C21H25NO5
reactant | ammonia | 0.16 mmol, 0.5 M, 0.32 mL | N | H3N
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 0.2 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetamide | 11 mg, 93% | OC(/C=C/[C@@H]1N(C(CCC1)=O)CC#CCOCC(=O)N)CC1=CC=CC=C1 | C21H26N2O4
